US07388008B2
Step C. Preparation of (2S,2S)-nicotinic acid 2-[(4-amino-benzenesulfonyl)-isobutyl-amino]-6-(2-methoxycarbonylamino-3,3-diphenyl-propionylamino)-hexyl ester (PL-520)
The product of step B, (2S)-nicotinic acid 6-amino-2-[(4-amino-benzenesulfonyl)-isobutyl-amino]-hexyl ester (100 mg, 0.22 mmol) was dissolved in anhydrous DMF (2 mL) and treated with 0.062 mL (0.45 mmol) of triethylamine followed by EDC (100 mg, 0.56 mmol), HOBt (75 mg, 0.56 mmol) and (2S)-2-methoxycarbonylamino-3,3-diphenyl-propionic acid (56 mg, 0.19 mmol). The mixture was stirred overnight at room temperature. The product was extracted with ethyl acetate (40 mL) and water (40 mL). The organic layer was separated and dried with Na2SO4, then evaporated to give 160 mg of crude oil. The residue was purified by flash chromatography with a mixture of eluents hexane/ethyl acetate (2/8). The title compound was obtained as a clear oil in 20% yield (25 mg).

reactant | (2S)-nicotinic acid 6-amino-2-[(4-amino-benzenesulfonyl)-isobutyl-amino]-hexyl ester | 0.22 mmol, 100 mg | NCCCC[C@@H](COC(C1=CN=CC=C1)=O)N(CC(C)C)S(=O)(=O)C1=CC=C(C=C1)N | C22H32N4O4S
reactant | triethylamine | 0.45 mmol, 0.062 mL | C(C)N(CC)CC | C6H15N
reactant | EDC | 0.56 mmol, 100 mg
reactant | HOBt | 0.56 mmol, 75 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2S)-2-methoxycarbonylamino-3,3-diphenyl-propionic acid | 0.19 mmol, 56 mg | COC(=O)N[C@H](C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17NO4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2S,2S)-nicotinic acid 2-[(4-amino-benzenesulfonyl)-isobutyl-amino]-6-(2-methoxycarbonylamino-3,3-diphenyl-propionylamino)-hexyl ester | 20% yield | NC1=CC=C(C=C1)S(=O)(=O)N([C@H](COC(C1=CN=CC=C1)=O)CCCCNC([C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC)=O)CC(C)C | C39H47N5O7S
